US08076331B2
2-[4-(3-Bromopropoxy)phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane
4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (CAS #269409-70-3) (10.5 g, 47 mmol) was dissolved in dry CH3CN (200 mL) and dry, pulverized K2CO3 (10.4 g, 75 mmol) was introduced. 1,3-dibromopropane (38.1 mL, 375 mmol) was added dropwise, and the reaction mixture was heated at 70° C. for 7 h under a nitrogen atmosphere. The cooled reaction mixture was filtered and the filtrate was evaporated to an oily residue, which was applied to a column of silica gel. Elution initially with hexanes, gradually increasing polarity to a mixture of hexanes/ethyl acetate (25:1, 20:1 and 10:1) as eluent, provided the title compound (13.93 g, 86%) which crystallized on standing to a white solid, m.p. 62-65° C.

reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 47 mmol, 10.5 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | K2CO3 | 75 mmol, 10.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-dibromopropane | 375 mmol, 38.1 mL | BrCCCBr | C3H6Br2
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 2-[4-(3-Bromopropoxy)phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | 13.93 g, 86% | BrCCCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H22BBrO3
